Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
nut - unspecified
 
Attending: ___.
 
Chief Complaint:
"I guess it's gone on longer than I thought"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Briefly, Patient is a ___ with history of depression and PTSD 
secondary to physical and emotional parental abuse and no 
medical history who self-presents for SI via hanging having 
recently purchased rope. On interview, patient describes feeling 
acutely depressed for the last 3 weeks, though she notes that 
her mother noticed changes in her mood beginning in ___. She 
says that she has experienced "undiagnosed" episodes of 
depression similarly characterized by low mood, anhedonia, 
apathy, changes in sleep, appetite, and low energy in the past 
and has recently actively avoided talking to her mother due to 
fear her mother would confirm that she was currently depressed, 
the patient admitting she's been in denial; it was after 
speaking to her mother and revealing SI with plan and intent 
that she was convinced to present to the ED. She denies 
associated triggers, stating that school is going well, but says 
she has never experienced a depression as severe as this one, 
and has never before made plans to attempt suicide. When asked 
about safety, she becomes acutely tearful, stating that she 
struggles when alone and worries she might "act on [her] urges" 
to self-harm via cutting. She does not know whether she might 
attempt to cut in order to die. 

Per Dr. ___ consult noted dated ___: "The patient 
notes that she has been feeling more apathetic over the past 3 
weeks, and it has worsened over the past week. Also notes that 
she has been wanting to die over the same time period. Denies 
any clear trigger. Denies any new stressors. States that she has 
felt this way once before and freshman year of high school, but 
did not ever make a suicidal gesture until this past ___.

The patient states that she purchased a rope, and on ___ 
prior to admission, during a break in between class and work 
when no one else was in her dorm room she pulled out her rope 
and sat there considering whether or not to look up how to make 
a noose. She states that she decided not "to do that to her 
roommate," and decided not to hang herself. The following day 
she called her mother stating that she "was not okay.

Regarding depressive symptoms in addition to the apathetic mood, 
she states that her sleep has been sporadic getting either 2 or 
12 hours per night though she feels tired all the time. She 
states that she feels no joy though she used to find joy in 
hockey or cooking but is no longer feeling the same way about 
them. She states that her appetite is also sporadic noting that 
she either does not eat or she binge eats. Notes that her 
clothes are more loose lately but is unable to state whether or 
not there is been a clear weight loss. Notes that her 
concentration has also been "off," this week.

Regarding anxiety she notes that this is merely situational and 
denies any ruminating thoughts. She does note a history of panic 
attacks having had one last week, and one on the ___ prior 
to admission. She states that she felt like she "could not move, 
and felt stuck." She also noted shortness of breath, numbness 
and tingling in her fingertips, and endorsed a sense of 
impending doom. She states that the trigger was tryouts for 
hockey last week, but is unable to note a clear trigger for the 
panic attack she had on ___. She states that she is to get 
panic attacks regularly in her senior year of high school and 
freshman year of college, but since then they have been rare.

With regard to symptoms of PTSD the patient noted that she has a 
father who was previously abusive to herself, her siblings, as 
well as her mother. She received emotional abuse most of the 
time, however she and her mother noted that there were 2 
instances of physical abuse. Additionally she witnessed physical 
abuse meted out by her father onto her mother. She states that 
she used to have flashbacks and nightmares in her senior year of 
high school surrounding these traumatic events.

The patient denies symptoms of mania such as distractibility, 
erratic behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech. 

The patient also denies psychotic symptoms such as auditory or 
visual hallucinations, paranoia, or delusions." 

Psychiatric ROS: As per HPI ED Course: Patient was in good 
behavioral control throughout ED stay. No physical or chemical 
restraints required. ROS: All systems reviewed and were 
negative. 
 
Past Medical History:
PSYCHIATRIC HISTORY: 
-Hospitalizations: none 
-Current treaters and treatment: No current treaters.  Family
therapy from ages ___ helped with communication and coping
skills. 
-Medication and ECT trials: denies
-Self-injury: Patient states that she has been cutting.  Started
cutting in her freshman year of high school.  She states that 
she has intrusive thoughts about cutting herself that are 
relieved by cutting.  She states that it is also a relief 
emotionally when she cuts and her apathy is diminished by 
cutting.  She states that she stopped halfway through ninth 
grade, and restarted in the beginning of ___.  The 
most recent time she cut was ___.  She states that 
she cuts on her inner thighs and on her right rib cage.  She 
denies ever cutting so deeply that she became concerned for her 
well-being.  
-Harm to others: denies
-Access to weapons: denies

MEDICAL HISTORY:
Denies
  
ALLERGIES:
Hazelnuts- anaphylaxis by testing
Mild allergy to pitted fruits

 
Social History:
SUBSTANCE ABUSE HISTORY:
Per Dr. ___ consult note dated ___:
-Tobacco: none
-ETOH: 2x/week, drink to point of getting drunk spiked seltzer
-Illicit drugs: Rare cannabis use

FORENSIC HISTORY:
___
SOCIAL HISTORY:
Per Dr. ___ consult note dated ___:
-Born and raised in: ___
-Family/Support: Mother, 2 brothers sister, all adults.
-Housing: Patient lives in ___. 
-Education: Patient is a math major at ___. 
She finds it fun and states that she is "almost done with her
major.  She is looking forward to this that she will be able to
take classes that she wants to take.  She is also getting a 
minor
and coaching.  She has future orientation for the possibility of
working in a ___ once she completes her degree.  
-Employment/Income: States that she works on campus as a ___.  She enjoys it and thinks it is "fun."  She noted that 
she
has a "couple of good students" whom she enjoys working with.    

-Spiritual: none 
-Trauma history: Patient states that she was sexually assaulted
freshman year of college.  She denies any PTSD symptoms
surrounding it save for a conscious avoidance of the campus on
which the individual goes to school.  Denies nightmares or
flashbacks hypervigilance.
 

 
Family History:
Denies
 
Physical Exam:
On admission:

VS: T 98.1 | BP 114 / 76 | HR 79 | RR 16 | SpO2 98% RA 

General: Young female in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. PERRL, EOMI. Oropharynx clear.
Neck: Supple.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 
Neurological:
Cranial Nerves:
-Pupils symmetry and responsiveness to light and accommodation:
PERRLA
-Visual fields: full to confrontation
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on eye closure and smile: symmetric
-Hearing bilaterally to rubbing fingers: normal
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline
Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. DTRs: 2+ and symmetrical
throughout. Sensation: Intact to light touch throughout. 
Gait: Steady. Normal stance and posture. No truncal ataxia.

Cognition: 
Wakefulness/alertness: awake and alert
Attention: intact to interview
Orientation: oriented to person, time, place, situation
Memory: intact to recent and past history
Fund of knowledge: consistent with education
Calculations: correctly states 7 quarters in $1.75
Abstraction: intact to similarities
Speech: normal rate, volume, and tone
Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
Appearance: No apparent distress, appears stated age, well
groomed, appropriately dressed
Behavior: Calm, cooperative, engaged, pleasant, appropriate eye
contact, no psychomotor agitation or retardation
Mood and Affect: "Depressed" / dysphoric, tearful, 
mood-congruent
Thought Process: linear, coherent, no LOA
Thought Content: denies HI/AH/VH, no evidence of delusions or
paranoia; endorses ongoing SI
Judgment and Insight: limited/fair

 
Pertinent Results:
___: BLOOD
WBC-9.0 RBC-4.55 Hgb-12.5 Hct-39.8 MCV-88 MCH-27.5 MCHC-31.4* 
RDW-13.5 RDWSD-42.7 Plt ___
Neuts-70.5 ___ Monos-5.0 Eos-0.9* Baso-0.7 Im ___ 
AbsNeut-6.31* AbsLymp-2.02 AbsMono-0.45 AbsEos-0.08 AbsBaso-0.06
Glucose-99 UreaN-8 Creat-0.7 Na-142 K-4.4 Cl-103 HCO3-24 
AnGap-15
ASA-NEG Ethanol-NEG Acetmnp-NEG Tricycl-NEG

___: URINE
Urine Blood-LG* Nitrite-NEG Protein-TR* Glucose-NEG Ketone-NEG 
Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
RBC-7* WBC-2 Bacteri-FEW* Yeast-NONE Epi-2 TransE-<1
UCG-NEGATIVE
bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG amphetm-NEG 
oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on q5 minute 
checks status on admission secondary to urge for cutting and was 
changed to q15 minute checks on ___ after improvement in 
SI/SIB, and remained on that level of observation throughout 
while being unit restricted. She was initially placed on red 
sharps status, but was switched to green sharps status on 
___. She did not require physical or chemical restraints 
during his hospitalization. 

2. PSYCHIATRIC:
Upon admission, the patient reported several weeks of worsening 
depressive symptoms including low mood, anhedonia, insomnia, 
anergia, fluctuations in appetite, decreased 
motivation/concentration, and SI with plan to hang herself. The 
patient purchased a rope and was practicing tying a noose. She 
had additionally resumed SIB in the form of superficial cutting 
after several years of abstinence (in rib cage and inner 
thighs-multiple healed superficial cuts visible). MSE was 
notable for casually groomed age-appearing female with good 
hygiene, affect dysphoric and tearful, thought process linear 
and logical, and content positive for ongoing SI with plan.  The 
patient's diagnosis, given absence of past or present manic or 
psychotic symptoms with negative family history, was most 
consistent with MDD, recurrent, moderate with history of PTSD 
secondary to emotional abuse from her father who had very 
restrictive and punitive upbringing. 

The patient was started on Zoloft 25 mg daily for depression and 
mood stability and Ramelteon 8 mg QHS as she experienced 
difficulty sleeping in a hospital. During hospitalization, 
patient continued to endorse feelings of SI and urges for 
cutting, so Zoloft was increased to 50 mg daily and Lamictal 25 
mg daily was added for impulsivity. These were uptitrated to 
Zoloft 75 mg daily and Lamictal 50 mg QHS. The patient tolerated 
changes in medications well and found them to be helpful for her 
mood and sleep. With time, patient's mood stabilized. She 
learned new coping skills in therapy, DBT skills, which she 
found helpful. The suicidal thoughts gradually faded away. 
Towards the end of hospitalization, patient denied having any 
SI. She was pleasant, cooperative, and engaging at all times, 
motivated to attend groups, no angry outbursts. 

At time of discharge, patient endorsed no more SI or urge to 
cut. 

3. SUBSTANCE USE DISORDERS
#)Alcohol Use Disorder: Provided education regarding deleterious 
effects of
substance use on medical and psychiatric health. Further 
provided individual and group therapy, focused on sobriety and 
coping skills regarding substance use. She declined treatment 
with Campral. 

4. MEDICAL
N/A
 

5. PSYCHOSOCIAL

#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. After 
encouragement, the patient often attended these groups that 
focused on teaching patients various coping skills and 
participated actively. She was often visible in the milieu and 
was appropriate in her interactions with peers and staff without 
ever requiring restraint or seclusion.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s family (specifically mother) was involved in the 
patients’ treatment and discharge planning, and was provided 
with the opportunity to discuss the patient’s diagnosis and 
treatment with the primary treatment team. Family meeting with 
the mother and social work was held on ___. The patient’s 
family was supportive of the patient’s treatment and aftercare 
plan.  
- Mother noted that patient had a lot of stress around her 
father and finances. Her father was supposed to pay for half of 
her college, but he has been decreasing the amount he is paying 
for college. So when tuition period arrives, it will bring up 
anger. Mother further explained that patient never bonded with 
her father, beginning at in childhood. He would angrily reject 
her when she was crying at a young age, so she even stopped 
climbing onto his lap by age ___. Denies any known sexual abuse, 
but she notes that in ___ grade, she had a "bad year." Mom is 
unsure what the "bad year" meant. Endorsed physical and verbal 
abuse from father. Notes that physical abuse was mostly 
intimidation, and some slaps in the face. She noted that when 
patients goes into these "depressions," she will withdraw. She 
would instead watch TV all day and mother thinks that is her 
sign of depression. 
- Family meeting with mother on ___: Mother shared 
stressors that she believes contributed to patient's increase in 
depressive symptoms, including the lack of structure during pt's 
summer, younger brother moving in with father in ___ as well 
as the general stress of college. Pt's mother shared she felt pt 
often feels as if she need to "protect" mother and pt is not 
always communicative when pt's is feeling an increase of 
depressive symptoms. She also shares pt is typically very 
social, and withdrawal from social situations or isolation is an 
indication pt's depressive symptoms have increased.
- Contacts
Mother: ___, (phone: ___ 

#) INTERVENTIONS
- Medications: Zoloft (sertraline) 75 mg daily, Lamictal 50 mg 
QHS. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: PCP appointment, psychiatry and 
therapy intake appointment, college reentry appointment. 
- Behavioral Interventions: encourage consistent outpatient 
therapy
- Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team.  

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon suicidal ideation 
with plan.  Her static factors noted at that time include 
history of self harm (cutting), history of trauma, Caucasian 
race, age, marital status (single).  Her modifiable risk factors 
included suicidal ideation with plan, limited insight, lack of 
engagement with outpatient treatment, hopelessness, limited 
coping skills, no established outpatient treatment, active 
substance abuse (alcohol). The modifiable risk factors were 
addressed during hospitalization via medication management, 
psychotherapeutic intervention, and aftercare coordination.  
Finally, the patient is being discharged with many protective 
risk factors, including help-seeking nature, future-oriented 
viewpoint, sense of responsibility to family, life satisfaction, 
reality testing ability, and strong social supports.  Overall, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. DiphenhydrAMINE 50 mg PO QHS 

 
Discharge Medications:
1.  LamoTRIgine 50 mg PO DAILY 
RX *lamotrigine 25 mg 2 tablet(s) by mouth at bedtime Disp #*60 
Tablet Refills:*0 
2.  Larissia (levonorgestrel-ethinyl estrad) 0.1-20 mg-mcg oral 
DAILY  
3.  Sertraline 75 mg PO DAILY 
RX *sertraline 50 mg 1.5 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent, severe, no psychotic 
features
Post-traumatic Stress Disorder
Alcohol Use Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for major depressive disorder, 
PTSD, and alcohol use disorder.  
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___